US08217570B2
The synthetic intermediate (enone) 9.0 g 31 mmol), 1-phenacylpyridinium bromide 8.7 g (31 mmol) and ammonium acetate 19.3 g (25 mmol) were suspended in 27 ml of acetic acid and refluxed for 12 hours by heating. The reaction solution was cooled down to room temperature, and toluene and water were added thereto to separate the solution into two layers. Then, the organic layer was washed in order with a 10% sodium hydroxide aqueous solution and a saturated saline solution and dried on anhydrous sodium sulfate. After removing the organic solvent by distillation under reduced pressure, 27 ml of ethanol was added thereto, and deposited crystal was filtered and washed with ethanol to obtain 10.6 g (yield: 88%) of 4-bromophenyl-2,6-diphenylpyridine.

reactant | 1-phenacylpyridinium bromide | 31 mmol, 8.7 g | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC=CC=C1
reactant | ammonium acetate | 25 mmol, 19.3 g | C(C)(=O)[O-].[NH4+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
reactant | acetic acid | 27 ml | C(C)(=O)O | C2H4O2
product | 4-bromophenyl-2,6-diphenylpyridine | 10.6 g, yield: 88% | BrC1=CC=C(C=C1)C=1C(=NC(=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H16BrN
